US07517875B2
After suspending 2-{[1-(3-phenyl-propyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid methyl ester (3.2 mmol) in methanol (10 ml), a 4N lithium hydroxide aqueous solution (5.4 ml, 21.4 mmol) was added. The reaction mixture was stirred at 50° C. for 2 hours and then cooled to room temperature. Next, 1N hydrochloric acid was added dropwise to adjust the pH to approximately 6.0. Ethyl acetate (1 ml) was added to the aqueous solution and the mixture was stirred for 3 hours, and then the precipitate was filtered out to obtain 2-{[1-(3-phenyl-propyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid. The compound was identified by LC-MS.

reactant | 2-{[1-(3-phenyl-propyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid methyl ester | 3.2 mmol | COC(=O)C1=CC2=C(NC(=N2)NCC2CCN(CC2)CCCC2=CC=CC=C2)C=C1 | C24H30N4O2
reactant | lithium hydroxide | 21.4 mmol, 4N, 5.4 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 2-{[1-(3-phenyl-propyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-5-carboxylic acid | C1(=CC=CC=C1)CCCN1CCC(CC1)CNC1=NC2=C(N1)C=CC(=C2)C(=O)O | C23H28N4O2
